US05190934
A solution of 14.42 g of ethyl (1,1-diethoxyethyl)-2-(4-chlorophenyl)prop-1-enylphosphinate in 50 ml of anhydrous dichloromethane containing 10% of absolute ethanol is treated with 6.518 g of trimethylchlorosilane. After stirring at room temperature for 24 hours the volatile material is removed under reduced pressure. Chromatography of the resulting oil on silica-gel gives ethyl 2-(4-chlorophenyl)prop-1-enylphosphinate as a colourless oil; 1H-NMR (CDCl3): δ(ppm)=7.35 (4H, m, Ph), 7.05 (1H, d, t, J=549 and 1.5 Hz, P--H), 5.56 (1H, d, CH), 5.30 (1H, d, CH), 4.20-3.97 (2H, q, CH2OP), 3.07 (2H, d, t, J=17+1.5 Hz, P--CH2), 1.27 (3H, t, CH3).

reactant | ethyl (1,1-diethoxyethyl)-2-(4-chlorophenyl)prop-1-enylphosphinate | 14.42 g | C(C)OC(C)(OCC)P(OCC)(=O)C=C(C)C1=CC=C(C=C1)Cl | C17H26ClO4P
reactant | ethanol | C(C)O | C2H6O
reactant | trimethylchlorosilane | 6.518 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 2-(4-chlorophenyl)prop-1-enylphosphinate | ClC1=CC=C(C=C1)C(=CP(OCC)=O)C | C11H14ClO2P
